US06608203B2
{6-Hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenylmethanone
A mixture of {6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}phenylmethanone (0.043 g, 0.08 mmol), ammonium formate (0.127 g, 2.01 mmol), and 20% Pd(OH)2/C (0.025 g) in MeOH (10 ml) was refluxed under N2 for 1 hr, then filtered through Celite. The filtrate was evaporated in vacuo to a white residue that was dissolved in CH2Cl2 (10 ml) and washed with 1M NaOH (5 ml). The aqueous layer was extracted with CH2Cl2 (3×10 ml) and all of the combined organic solutions were dried over MgSO4 and concentrated in vacuo to give 0.028 g (78% yield) of colorless residue.

reactant | {6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}phenylmethanone | 0.08 mmol, 0.043 g | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)C(=O)C1=CC=CC=C1 | C35H36N2O3
reactant | ammonium formate | 2.01 mmol, 0.127 g | C(=O)[O-].[NH4+]
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.025 g | [OH-].[OH-].[Pd+2]
product | {6-Hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenylmethanone | 0.028 g, 78% yield | OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)C(=O)C1=CC=CC=C1 | C28H30N2O3
